US05131947
Synthesis of N-(2-butenyl)-N-(3-trifluoromethylphenyl)-amine
In 30 ml of dimethylformamide, 1.4 g of anhydrous potassium carbonate and 1.0 g of 1-chloro-2l-butene were added to 1.6 g of 3-aminobenzotrifluoride, followed by stirring for 2 hours from 70° C. to 90° C. After potassium carbonate was filtered off, 100 ml of saturated saline were added and the resulting mixture was extracted with benzene. The extract was dried over anhydrous sodium sulfate, concentrated and then subjected to chromatography on a silica gel column (hexane/ethyl acetate: 35/1, v/v), whereby the intended compound was obtained.

reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-aminobenzotrifluoride | 1.6 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(2-butenyl)-N-(3-trifluoromethylphenyl)-amine | C(C=CC)NC1=CC(=CC=C1)C(F)(F)F | C11H12F3N
